US09422271B2
The mixture of 5-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidine-2-carbonitrile (1.0 g, 3.85 mmol, 1.0 eq) and K2CO3 (2.0 g, 14.49 mmol, 3.8 eq) in DMSO (20 mL) was stirred at room temperature, and 30% hydrogen peroxide (3 mL) was added dropwise. The reaction mixture was stirred at rt for 1 h, water was added and the suspension was filtered to afford 5-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidine-2-carboxamide (950 mg, 89%). LC-MS (m/z)=279.0 [M+H]+.

reactant | 5-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidine-2-carbonitrile | 3.85 mmol, 1.0 g, 1.0 eq | ClC=1C(=NC(=NC1)C#N)NC1=NNC(=C1)C1CC1 | C11H9ClN6
reactant | K2CO3 | 14.49 mmol, 2.0 g, 3.8 eq | C(=O)([O-])[O-].[K+].[K+]
reactant | hydrogen peroxide | 3 mL | OO | H2O2
reactant | water | O | H2O
solvent | DMSO | 20 mL | CS(=O)C | C2H6OS
product | 5-chloro-4-(5-cyclopropyl-1H-pyrazol-3-ylamino)pyrimidine-2-carboxamide | 950 mg, 89% | ClC=1C(=NC(=NC1)C(=O)N)NC1=NNC(=C1)C1CC1 | C11H11ClN6O
